US05869492
A mixture of 3-(2-bromoacetyl)benzo[b]furan (0.25 g), 2-imidazolidinethione (0.11 g), ethanol (30 ml) and acetic acid (20 ml) was heated under reflux for 20 hours, then allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with ether, and dried in vacuo at ambient temperature to give 3-(benzo[b]furan-3-yl)-5,6-dihydroimidazo[2,1-b]thiazole monohydrobromide monohydrate as a white solid (0.145 g), m.p. 242°-244° C.

reactant | 3-(2-bromoacetyl)benzo[b]furan | 0.25 g | BrCC(=O)C=1C2=C(OC1)C=CC=C2 | C10H7BrO2
reactant | 2-imidazolidinethione | 0.11 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-(benzo[b]furan-3-yl)-5,6-dihydroimidazo[2,1-b]thiazole monohydrobromide monohydrate | 0.145 g | O.Br.O1C2=C(C(=C1)C=1N3C(SC1)=NCC3)C=CC=C2 | InChI=1S/C13H10N2OS.BrH.H2O/c1-2-4-12-9(3-1)10(7-16-12)11-8-17-13-14-5-6-15(11)13;;/h1-4,7-8H,5-6H2;1H;1H2
